US08865725B2
Copper(I)iodide (11.8 mg, 0.062 mmol) was added to a stirred suspension of 2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one (50 mg, 0.21 mmol), 4-fluoroiodobenzene (72.5 mg, 0.41 mmol), K2CO3 (57 mg, 0.41 mmol) and N,N′-dimethylethylenediamine (0.011 mL, 0.1 mmol) in toluene (1 mL) in a sealed tube. The mixture was stirred at 120° C. for 16 hours. The mixture was filtered through a pad of diatomaceous earth and then the solvent was evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM with a gradient of 0/100 to 30/70). The desired fractions were collected and evaporated in vacuo to yield 6-(4-fluoro-phenyl)-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one (45 mg, 65% yield) as a white solid. 1H NMR (500 MHz, CDCl3) 8 ppm 5.20 (s, 2H), 6.70 (d, J=7.8 Hz, 1H), 6.98 (t, J=7.2 Hz, 1H), 7.03 (d, J=8.1 Hz, 2H), 7.12 (d, J=7.8 Hz, 1H), 7.19-7.25 (m, 2H), 7.27-7.34 (m, 2H), 7.38-7.45 (m, 2H), 7.83 (s, 1H).

reactant | 2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one | 0.21 mmol, 50 mg | O(C1=CC=CC=C1)CC=1N=C2N(C(NC=C2)=O)C1 | C13H11N3O2
reactant | 4-fluoroiodobenzene | 0.41 mmol, 72.5 mg | FC1=CC=C(C=C1)I | C6H4FI
reactant | K2CO3 | 0.41 mmol, 57 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 0.1 mmol, 0.011 mL | CNCCNC | C4H12N2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Copper(I)iodide | 0.062 mmol, 11.8 mg | [Cu]I
product | 6-(4-fluoro-phenyl)-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one | 45 mg, 65% yield | FC1=CC=C(C=C1)N1C(N2C(C=C1)=NC(=C2)COC2=CC=CC=C2)=O | C19H14FN3O2
